US09238018B2
Monosodium urate (MSU) crystals were prepared by dissolving 1.68 g of uric acid in 500 mL of 0.01 M NaOH and heating to 70° C.55,56 NaOH was added as required to maintain the pH between 7.1 and 7.2 and the solution was filtered and incubated at room temperature with slow stirring for 24 hours.

reactant | uric acid | 1.68 g | N1C(=O)NC=2NC(=O)NC2C1=O | C5H4N4O3
reactant | NaOH | 0.01 M, 500 mL | [OH-].[Na+]
product | Monosodium urate | C12=C(NC(=O)NC1=O)[N-]C(=O)N2.[Na+] | InChI=1S/C5H4N4O3.Na/c10-3-1-2(7-4(11)6-1)8-5(12)9-3;/h(H4,6,7,8,9,10,11,12);/q;+1/p-1
